US04110342
Methyl 2-Azidomethyl-4-thienylacetate
Methyl 2-azidomethyl-4-thienyl ketone (9.05 g., 0.05 mole), 150 ml. of methanol, 12.0 g. (0.15 mole) of 70% nitric acid and 22.2 g. (0.05 mole) of thallium (III) nitrate trihydrate is heated at reflux for 2 hours, cooled to room temperature, neutralized with dilute sodium hydroxide solution, filtered and the filtrate worked-up as described in Example 4 to obtain the title compound.

reactant | Methyl 2-azidomethyl-4-thienyl ketone | 0.05 mole, 9.05 g | N(=[N+]=[N-])CC=1SC=C(C1)C(=O)C | C7H7N3OS
reactant | nitric acid | 0.15 mole | [N+](=O)(O)[O-] | HNO3
reactant | thallium (III) nitrate trihydrate | 0.05 mole | O.O.O.[N+](=O)([O-])[O-].[Tl+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | CO | CH4O
product | Methyl 2-Azidomethyl-4-thienylacetate | N(=[N+]=[N-])CC=1SC=C(C1)CC(=O)OC | C8H9N3O2S
